US06936602B1
To anhydrous acetic acid (0.63 ml) was added formic acid (0.31 ml) at 0° C., and the mixture was stirred at 60° C. for 2 hours, cooled and diluted with THF (10 ml). In THF (10 ml) was dissolved methyl 7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (510 mg), and the solution was added dropwise to the previously prepared solution of formic anhydride in THF, at 0° C. The mixture was stirred at room temperature for 2 hours, and the solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated sodium hydrogen carbonate solution, water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate/hexane to give methyl 7-(4-ethoxy-3-fluoropheny)-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (490 mg, 89%) as white crystals.

reactant | acetic acid | 0.63 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 0.31 ml | C(=O)O | CH2O2
reactant | methyl 7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 510 mg | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1)F | C20H20FNO3
reactant | formic anhydride | C(=O)OC=O | C2H2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 7-(4-ethoxy-3-fluoropheny)-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 490 mg, 89% | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)OC)C1)F | C21H20FNO4
